### ISSUE TITLE
Match equations not allowed in `simp only` theorem list

### ISSUE THREAD

**Issue by JLimperg** [leanprover/lean4#4251]
### Prerequisites

* [X] Check that your issue is not already filed:
      https://github.com/leanprover/lean4/issues
* [X] Reduce the issue to a minimal, self-contained, reproducible test case.
      Avoid dependencies to Mathlib or Batteries.
* [X] Test your test case against the latest nightly release, for example on
      https://live.lean-lang.org/#project=lean-nightly
      (You can also use the settings there to switch to “Lean nightly”)

### Description

In the following example, a `simp only` list suggested by `simp?` fails:

```lean
-- works
theorem foo₁ (a : Nat) (ha : a = 37) :
    (match h : a with | 42 => by simp_all | n => n) = 37 := by
  simp? [ha]
  -- Try this: simp only [ha, Nat.reduceEqDiff, imp_self, foo₁.match_1.eq_2]

-- fails
theorem foo₂ (a : Nat) (ha : a = 37) :
    (match h : a with | 42 => by simp_all | n => n) = 37 := by
  simp only [ha, Nat.reduceEqDiff, imp_self, foo₂.match_1.eq_2]
  -- invalid field notation, type is not of the form (C ...) where C is a constant
  --   foo₂
```

The issue might be that on-demand generation of `match` equations is not triggered by `simp only`.

### Versions

nightly-2024-05-22

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.

**Comment by nomeata** [comment]
I think your analysis is correct. So either match equations become public API, and should take part in the lazy definition generation, or there needs to be a way to say “equations for this match” like with functions. Or both. The former is probably easier.
